US07902367B2
Step 96b) Methyl 3-benzyloxy-5-[3-[[2-(4-chlorophenyl)-4-methylthiazol-5-yl]carbonylamino]piperidin-1-yl]benzoate
Methyl 3-benzyloxy-5-(3-tert-butoxycarbonylaminopiperidin-1-yl)benzoate (23.0 mg, 0.0522 mmol) was dissolved in anhydrous dichloromethane (0.5 mL). While this solution is chilled in an ice bath and stirred, trifluoroacetic acid (80 μL, 6.82 mmol) was added and the reaction mixture was stirred for 2 hours. Subsequently, the mixture was concentrated and a 10% hydrochloric acid/methanol solution (1.5 mL) was added to the residue. The mixture was then stirred at room temperature for 1 hour and was concentrated. The same process was repeated 3 times and the resulting solid were washed with ethyl acetate. This gave 20.9 mg of a blown powder. This product (19.8 mg) was dissolved in N,N-dimethylformamide (1 mL). While the solution was chilled to 0° C. and stirred, 2-(4-chlorophenyl)-4-methylthiazole-5-carboxylic acid (15.5 mg, 0.0611 mmol), 1-hydroxybenzotriazole monohydrate (8.8 mg, 0.0575 mmol), N-methylmorpholine (17 μL, 0.155 mmol) and 3-(3-dimethylaminopropyl)-1-ethylcarbodiimide hydrochloride (11.7 mg, 0.0610 mmol) were added and the mixture was stirred for 20 min. The reaction mixture was further stirred at room temperature for the subsequent 6 hours. Subsequently, the mixture was diluted with ethyl acetate and the organic layer washed sequentially with 5% aqueous citric acid, a saturated aqueous sodium bicarbonate solution, water and brine. The washed product was then dried over anhydrous sodium sulfate and was concentrated. Purification of the resulting residue by silica gel column chromatography (hexane:ethyl acetate=4:1) gave 22.8 mg (75%) of the desired compound as a colorless powder.

reactant | Methyl 3-benzyloxy-5-(3-tert-butoxycarbonylaminopiperidin-1-yl)benzoate | 0.0522 mmol, 23.0 mg | C(C1=CC=CC=C1)OC=1C=C(C(=O)OC)C=C(C1)N1CC(CCC1)NC(=O)OC(C)(C)C | C25H32N2O5
reactant | trifluoroacetic acid | 6.82 mmol, 80 μL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-(4-chlorophenyl)-4-methylthiazole-5-carboxylic acid | 0.0611 mmol, 15.5 mg | ClC1=CC=C(C=C1)C=1SC(=C(N1)C)C(=O)O | C11H8ClNO2S
reactant | 1-hydroxybenzotriazole monohydrate | 0.0575 mmol, 8.8 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N-methylmorpholine | 0.155 mmol, 17 μL | CN1CCOCC1 | C5H11NO
reactant | 3-(3-dimethylaminopropyl)-1-ethylcarbodiimide hydrochloride | 0.0610 mmol, 11.7 mg | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 3-benzyloxy-5-[3-[[2-(4-chlorophenyl)-4-methylthiazol-5-yl]carbonylamino]piperidin-1-yl]benzoate | 22.8 mg, 75% | C(C1=CC=CC=C1)OC=1C=C(C(=O)OC)C=C(C1)N1CC(CCC1)NC(=O)C1=C(N=C(S1)C1=CC=C(C=C1)Cl)C | C31H30ClN3O4S
